US06969714B2
4-{N-[3-(Pyrrolidin-2-on-1-yl)propyl]sulphamoyl}aniline
Sulphanilyl fluoride (6.5 g, 37.1 mmol), 3-(pyrrolidin-2-on-1-yl)propylamine (5.79 g, 40.8 mmol) and triethylamine (5.69 ml, 40.8 mmol) in n-butanol (15 ml) was heated at reflux for 10 hours. The mixture was allowed to cool, silica was added and the volatiles were evaporated. The residue was purified by chromatography eluting with DCM/MeOH (100:0) increasing in polarity to (90:10) to give the title compound m/z: 297.

reactant | Sulphanilyl fluoride | 37.1 mmol, 6.5 g | S(=O)(C1=CC=C(C=C1)N)(=O)F | C6H6FNO2S
reactant | 3-(pyrrolidin-2-on-1-yl)propylamine | 40.8 mmol, 5.79 g | N1(C(CCC1)=O)CCCN | C7H14N2O
reactant | triethylamine | 40.8 mmol, 5.69 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 15 ml | C(CCC)O | C4H10O
product | 4-{N-[3-(Pyrrolidin-2-on-1-yl)propyl]sulphamoyl}aniline | N1(C(CCC1)=O)CCCNS(=O)(=O)C1=CC=C(N)C=C1 | C13H19N3O3S
